US08497274B2
(ii) Production of N-[6-(3-amino-4-fluorophenoxy)-7-cyano-1,3-benzothiazol-2-yl]acetamide
To a solution of sodium borohydride (3.0 g, 79.4 mmol) in is ethanol (30 mL) was added dropwise methanol (6 mL). To this suspension was added N-(5-{[2-(acetylamino)-7-cyano-1,3-benzothiazol-6-yl]oxy}-2-fluorophenyl)-2,2,2-trifluoroacetamide (700 mg, 1.60 mmol). The reaction mixture was stirred at room temperature for 20 min, and concentrated under reduced pressure. The obtained residue was diluted with ethyl acetate (150 mL), washed successively with saturated aqueous sodium hydrogen carbonate solution (100 mL) and saturated brine (100 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=50/50→100/0). The obtained solution was concentrated under reduced pressure to give the title compound (260 mg, 48%) as a white powder.

reactant | sodium borohydride | 79.4 mmol, 3.0 g | [BH4-].[Na+]
reactant | methanol | 6 mL | CO | CH4O
reactant | N-(5-{[2-(acetylamino)-7-cyano-1,3-benzothiazol-6-yl]oxy}-2-fluorophenyl)-2,2,2-trifluoroacetamide | 1.60 mmol, 700 mg | C(C)(=O)NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C=CC(=C(C2)NC(C(F)(F)F)=O)F | C18H10F4N4O3S
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | N-[6-(3-amino-4-fluorophenoxy)-7-cyano-1,3-benzothiazol-2-yl]acetamide | 260 mg, 48% | NC=1C=C(OC2=C(C3=C(N=C(S3)NC(C)=O)C=C2)C#N)C=CC1F | C16H11FN4O2S
